US06458780B1
b) 7-(4-Nitrobenzyloxycarbonylamino)acetyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
7-(4-Nitrobenzyloxycarbonylamino)acetyl-imidazo[5,1-b]thiazole (2.52 g) was suspended in 50 ml of anhydrous THF. The suspension was cooled in an argon atmosphere to −70° C. Tri-n-butylstannyl chloride (3 ml) was added to the suspension. A solution (31.5 ml) of 1 N lithiumbis(trimethylsilyl)amide in THF was then added dropwise thereto over a period of 20 min. The mixture was allowed to react at the same temperature for one hr. The reaction solution was poured into a mixed solution composed of 250 ml of ethyl acetate and 150 ml of 15% brine. The organic layer was washed with 15% brine, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel (ethyl acetate:dichloromethane=1:10) to give 1.41 g of the title compound.

reactant | 7-(4-Nitrobenzyloxycarbonylamino)acetyl-imidazo[5,1-b]thiazole | 2.52 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCC(=O)C=2N=CN3C2SC=C3)C=C1 | C15H12N4O5S
reactant | Tri-n-butylstannyl chloride | 3 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithiumbis(trimethylsilyl)amide | 1 N, 31.5 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | brine | 150 ml | [Cl-].[Na+].O
product | 7-(4-Nitrobenzyloxycarbonylamino)acetyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 1.41 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCC(=O)C=2N=CN3C2SC(=C3)[Sn](CCCC)(CCCC)CCCC)C=C1 | InChI=1S/C15H11N4O5S.3C4H9.Sn/c20-12(13-14-18(9-17-13)5-6-25-14)7-16-15(21)24-8-10-1-3-11(4-2-10)19(22)23;3*1-3-4-2;/h1-5,9H,7-8H2,(H,16,21);3*1,3-4H2,2H3;
